US06670494B1
5.6 grams (0.1 Mole) of calcium oxide and 29.2 grams (0.2 Mole) of lysine were placed into a beaker provided with a reflux condenser and a Dean Stark water trap. 100 ml hexane was added and the mixture was stirred and boiled at atmospheric pressure for 5 hours. The reaction mixture was cooled, and was thereafter filtered yielding 32.8 grams of calcium lysinate having the physical characteristic of a fine white powder. In the course of reaction about 3.6-3.8 ml water was removed from the reaction media and acquired in the Dean Stark apparatus.

reactant | calcium oxide | 0.1 Mole, 5.6 grams | [O-2].[Ca+2]
reactant | lysine | 0.2 Mole, 29.2 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | water | O | H2O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | calcium lysinate | 32.8 grams | N[C@@H](CCCCN)C(=O)[O-].[Ca+2].N[C@@H](CCCCN)C(=O)[O-] | InChI=1S/2C6H14N2O2.Ca/c2*7-4-2-1-3-5(8)6(9)10;/h2*5H,1-4,7-8H2,(H,9,10);/q;;+2/p-2/t2*5-;/m00./s1
